US05629430
Methyl (1S)-1-chloromethyl-5-[4-(2-hydroxyethyl)piperazin-1-ylcarbonyl)oxy-3-[5-(7-methoxybenzofuran-2-ylcarbonyl)amino]-1H-indol-2-ylcarbonyl]-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate hydrochloride was prepared by using 25.6 mg (37 μmol) of methyl (1S)-1-chloromethyl-5-hydroxy-3-[5-(7-methoxybenzofuran-2-ylcarbonyl)amino-1H-indol-2-ylcarbonyl]-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate and 6.8 μl (56 μmol) of 1-(2-hydroxyethyl)piperazine in the same manner as in Example 46 in a yield of 22.2 mg (69%).

reactant | methyl (1S)-1-chloromethyl-5-hydroxy-3-[5-(7-methoxybenzofuran-2-ylcarbonyl)amino-1H-indol-2-ylcarbonyl]-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate | 37 μmol, 25.6 mg | ClC[C@@H]1CN(C=2C1=C1C(=C(NC1=C(C2)O)C(F)(F)F)C(=O)OC)C(=O)C=2NC1=CC=C(C=C1C2)NC(=O)C=2OC1=C(C2)C=CC=C1OC | C33H24ClF3N4O7
reactant | 1-(2-hydroxyethyl)piperazine | 56 μmol, 6.8 μl | OCCN1CCNCC1 | C6H14N2O
product | 7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate hydrochloride | Cl.FC(C=1NC2=CC=C3C(=C2C1C(=O)O)CCN3)(F)F | InChI=1S/C12H9F3N2O2.ClH/c13-12(14,15)10-9(11(18)19)8-5-3-4-16-6(5)1-2-7(8)17-10;/h1-2,16-17H,3-4H2,(H,18,19);1H
